US05206235
Step C: 3-Azido-7-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one
3-Iodo-7-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one (4.074 g, 12.85 mmol) and sodium azide (4.178 g, 64.3 mmol, 5 eq.) were dissolved in 50 mL of dimethylformamide and heated with stirring at 60° for 2 hours. The solvent was evaporated under vacuum at room temperature and the residue redissolved in 150 mL of ethyl acetate and washed with water (3×50 mL) and brine (1×50 mL). The organic layer was separated, dried over MgSO4, filtered and evaporated to dryness under vacuum to yield 2.538 g (10.94 mmol, 85%) of product. 1H NMR (200 MHz, CDCl3): 2.2-2.7 (m,3H), 2.90 (m,1H), 3.75 (s,3H), 3.80 (m,1H), 6.75 (m,2H), 6.95 (d,8 Hz,2H), 8.22 (br s,1H). FAB-MS: calculated for C11H12N4O2 232; found 233 (M+H,30%).

reactant | 3-Iodo-7-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 12.85 mmol, 4.074 g | IC1C(NC2=C(CC1)C=C(C=C2)OC)=O | C11H12INO2
reactant | sodium azide | 64.3 mmol, 4.178 g, 5 eq. | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-Azido-7-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 10.94 mmol, 2.538 g, 85% | N(=[N+]=[N-])C1C(NC2=C(CC1)C=C(C=C2)OC)=O | C11H12N4O2
